US05021435
Preparation of 5-methyl-2-(3-pyridyl)thiazolidin-4-one
According to the procedure of Example 4, the title compound was prepared by using nicotinaldehyde, ammonium carbonate, and thiolactic acid.

reactant | nicotinaldehyde | C(C1=CN=CC=C1)=O | C6H5NO
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | thiolactic acid | C(C(O)C)(=S)O | C3H6O2S
product | 5-methyl-2-(3-pyridyl)thiazolidin-4-one | CC1C(NC(S1)C=1C=NC=CC1)=O | C9H10N2OS
